US07547696B2
e,) 4-Methoxy-N-(4-methoxybenzoyl)-N-(4-benzylamino-3-cyano-6-nitroquinolin-2-yl)benzamide
A suspension of 3.5 g of 2-amino-3-cyano-4-benzylamino-6-nitroquinoline in 50 mL of dry pyridine was refluxed with 5.6 g of 4-methoxybenzoyl chloride for 3.5 hours. The solvent was evaporated in reduced pressure and the residue was suspended in 30 mL of a saturated solution of Na2CO3 in water. The suspension was extracted with 3×25 mL of CH2Cl2. The combined organic extract was evaporated to dryness, the residue was dissolved in diethyl ether and the solution was kept in a refrigerator for a night. The precipitate was filtered off, washed with diethyl ether to give 6.25 g of the title compound, m.p.: 145-148° C. LC-MS: MH+ 588; Ret. time: 7.00 min.

reactant | 2-amino-3-cyano-4-benzylamino-6-nitroquinoline | 3.5 g | NC1=NC2=CC=C(C=C2C(=C1C#N)NCC1=CC=CC=C1)[N+](=O)[O-] | C17H13N5O2
reactant | 4-methoxybenzoyl chloride | 5.6 g | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy-N-(4-methoxybenzoyl)-N-(4-benzylamino-3-cyano-6-nitroquinolin-2-yl)benzamide | 6.25 g | COC1=CC=C(C(=O)N(C2=NC3=CC=C(C=C3C(=C2C#N)NCC2=CC=CC=C2)[N+](=O)[O-])C(C2=CC=C(C=C2)OC)=O)C=C1 | C33H25N5O6
